US06355821B1
European Patent No. 369,979 (1989) discloses a way of making fine spherical powders of amorphous hydrated zirconium oxide. In the given example, a process was described in which zirconium oxychloride octahydrate (ZrOCl2.8H2O) was dissolved in 2-methoxyethanol at 60° C. and it was claimed that water was removed as an azeotropic mixture of water and 2-methoxyethanol to produce an essentially anhydrous zirconium salt. It was further claimed that to this zirconium salt was added n-propanol followed by the successive additions of propylene oxide and triethylamine to afford an organic solution of zirconium propoxide. This intermediate zirconium compound was then treated with a mixture of water, oleic acid and n-propanol to effect the hydrolysis and to produce spherical particles of zirconium oxide.

reactant | zirconium | [Zr] | Zr
reactant | n-propanol | C(CC)O | C3H8O
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | zirconium propoxide | [O-]CCC.[Zr+4].[O-]CCC.[O-]CCC.[O-]CCC | InChI=1S/4C3H7O.Zr/c4*1-2-3-4;/h4*2-3H2,1H3;/q4*-1;+4
